US07622466B2
5-Benzyloxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic Acid 1-tert-butyl Ester 2-methyl Ester
The solution of 0.2 g (0.54 mmol) 5-benzyloxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester in 2 ml DMF was cooled down to 0° C. and 26 mg (0.54 mmol; 55% dispersion in mineral oil) were added. After 15 min., 38 μl (85 mg, 0.6 mmol) methyl iodide were added and the cooling bath was removed. After 5 hours the reaction mixture was poured on water and was extracted five times with dichloromethane. The organic layers were dried over magnesium sulfate, filtered and evaporated to give 0.19 g (93%) the compound as a light yellow oil which was pure enough for the preceding steps without further purification.

reactant | 5-benzyloxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.54 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)OCC2=CC=CC=C2)C(=O)O | C20H20N2O5
reactant | methyl iodide | 0.6 mmol, 38 μl, 85 mg | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-Benzyloxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic Acid 1-tert-butyl Ester 2-methyl Ester | 0.19 g, 93% | COC(=O)C1=CC=2C(=NC=C(C2)OCC2=CC=CC=C2)N1C(=O)OC(C)(C)C | C21H22N2O5
